*magic_spice
*5 nets: subckt buffer: A, Y, VP, VN, inverter_1/A 

* NGSPICE file created from buffer.ext - technology: sky130A

.subckt inverter A Y VP VN
X0 Y A VP VP sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.5 ps=3 w=1 l=0.15
X1 Y A VN VN sky130_fd_pr__nfet_01v8 ad=0.5 pd=3 as=0.5 ps=3 w=1 l=0.15
.ends

.subckt buffer A Y VP VN
Xinverter_0 A inverter_1/A VP VN inverter
Xinverter_1 inverter_1/A Y VP VN inverter
.ends
